US08871782B2
Isopropyl isocyanate (0.256 mL, 2.61 mmol) was added dropwise to a stirred mixture of 2-(2-methoxyethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-ylamine (1.00 g, 2.61 mmol) in chloroform at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred for 16 hours. The solvent was evaporated under reduced pressure. The crude product was purified by flash chromatography (silica gel, gradient elution with 4-12% CMA in chloroform) followed by recrystallization from acetonitrile to afford 0.530 g of 4-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}-N-isopropylpiperidine-1-carboxamide as white crystals, mp 176-179° C.

reactant | Isopropyl isocyanate | 2.61 mmol, 0.256 mL | C(C)(C)N=C=O | C4H7NO
reactant | 2-(2-methoxyethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-ylamine | 2.61 mmol, 1.00 g | COCCC=1N(C2=C(C(=NC=3C=C(C=CC23)OC2CCNCC2)N)N1)CCC | C21H29N5O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-{[4-amino-2-(2-methoxyethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-7-yl]oxy}-N-isopropylpiperidine-1-carboxamide | 0.530 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)CCOC)OC2CCN(CC2)C(=O)NC(C)C | C25H36N6O3
